US04870082
Preparation of 2-nitrobenzoic acid (2-quinolinylmethylene)hydrazide, Compound 24
A mixture of 2.99 gm (0.019 mole) of 2-quinolinecarboxaldehyde, 3.44 gm (0.019 mole) of o-nitrobenzhydrazide and 150 ml of absolute ethanol is refluxed 9 hrs. The solvent is evaporated in vacuo. The solid is crystallized from methanol to give 1.97 gm (32%) of title compound, having a melting point of 195°-196° C.

reactant | 2-quinolinecarboxaldehyde | 0.019 mole, 2.99 gm | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | o-nitrobenzhydrazide | 0.019 mole, 3.44 gm | [N+](=O)([O-])C1=C(C(=O)NN)C=CC=C1 | C7H7N3O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-nitrobenzoic acid (2-quinolinylmethylene)hydrazide | 1.97 gm, 32% | N1=C(C=CC2=CC=CC=C12)C=NNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C17H12N4O3
